US08202863B2
2-Phenyl-pyrimidine-5-carboxylic acid (3-sulfamoyl-phenyl)-amide
Following procedures similar to those of Example 8 but substituting 3-amino-benzenesulfonamide (0.3 mmol) for 2,2-dioxo-2,3-dihydro-1H-2lamda*6*-benzo[c]isothiazol-5-ylamine, there is prepared 2-phenyl-pyrimidine-5-carboxylic acid (3-sulfamoyl-phenyl-amide as a solid. MS: 355 (M+H).

reactant | benzo[c]isothiazol-5-ylamine | N=1SC=C2C1C=CC(=C2)N | C7H6N2S
reactant | 2-phenyl-pyrimidine-5-carboxylic acid | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 3-sulfamoyl-phenyl-amide | S(N)(=O)(=O)C=1C=C(C=CC1)[NH-]
product | 2-Phenyl-pyrimidine-5-carboxylic acid (3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C17H14N4O3S
